US05104883
A solution of 2-(pyrid-3-yl)-2-methyldithiocarbonyl-1-formylmethylenecyclohexane (890 mg, 3 mmol) in methanol (20 ml) at 25° C. was treated with sodium borohydride (127 mg, 3.36 mmol). After 30 mins at 25° C. the solution was treated with ethyl acetate (50 ml) and water (20 ml) was added dropwise. The organic phase was removed and dried over magnesium sulphate. Concentration in vacuo yielded a crude oil. Purification over silica gel, eluting with ethyl acetate/n-hexane (7:3) afforded 2-(pyrid-3-yl)-2-methyldithiocarbonyl-1-(2-hydroxyethylidene)cyclohexane (590 mg, 2 mmol) as an orange solid, m.p. 139°-140° C.;

reactant | 2-(pyrid-3-yl)-2-methyldithiocarbonyl-1-formylmethylenecyclohexane | 3 mmol, 890 mg | N1=CC(=CC=C1)C1(C(CCC(C1=C=S)=C=S)=CC=O)C | C16H13NOS2
reactant | sodium borohydride | 3.36 mmol, 127 mg | [BH4-].[Na+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 20 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 2-(pyrid-3-yl)-2-methyldithiocarbonyl-1-(2-hydroxyethylidene)cyclohexane | 2 mmol, 590 mg | N1=CC(=CC=C1)C1(C(CCC(C1=C=S)=C=S)=CCO)C | C16H15NOS2
